US08334236B2
(3) Production of (2-(5-methyl-3-isoxazolyl)amino-3-pyridinyl)methanol
Under a nitrogen gas stream, 0.75 g (20 mmol) of lithium aluminum hydride was added to tetrahydrofuran (70 mL) under ice cooling, and a tetrahydrofuran (30 mL) solution of 2.3 g (9.9 mmol) of methyl 2-(5-methyl-3-isoxazolyl)aminonicotinate was added dropwise to the above solution. The resulting mixture was stirred for one hour under ice cooling. Ethyl acetate was added to the reaction mixture, and 8.0 mL of a 10% aqueous solution of sodium hydroxide was further added thereto. Insoluble materials were filtered off. The filtrate was concentrated, and the residue was dissolved in ethyl acetate, dried, filtered, and concentrated. Thus, 2.2 g of the title compound was obtained as an orange-colored viscous product (yield: quantitative).

reactant | lithium aluminum hydride | 20 mmol, 0.75 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | methyl 2-(5-methyl-3-isoxazolyl)aminonicotinate | 9.9 mmol, 2.3 g | CC1=CC(=NO1)NC1=C(C(=O)OC)C=CC=N1 | C11H11N3O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-(5-methyl-3-isoxazolyl)amino-3-pyridinyl)methanol | 2.2 g | CC1=CC(=NO1)NC1=NC=CC=C1CO | C10H11N3O2
